US06943253B2
3-acetyl-4-propoxybenzenesulfonyl chloride
To a mixture of chlorosulphonic acid (27 mL) and thionyl chloride (3.6 mL) at 0° C. was added portionwise 1-(2-propoxyphenyl)ethanone (5.0 g, 28.1 mmol). The resulting mixture was stirred at 0° C. for 20 min. and at room temperature overnight, poured cautiously into ice-water and extracted with methylene chloride. The organic solution was washed sequentially with water, aqueous sodium bicarbonate and brine, dried (MgSO4), and the solvent removed under reduced pressure to yield the title compound (6.3 g, 81%) as an off-white solid.

reactant | chlorosulphonic acid | 27 mL | ClS(=O)(=O)O | ClHO3S
reactant | thionyl chloride | 3.6 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(2-propoxyphenyl)ethanone | 28.1 mmol, 5.0 g | C(CC)OC1=C(C=CC=C1)C(C)=O | C11H14O2
product | 3-acetyl-4-propoxybenzenesulfonyl chloride | 6.3 g, 81% | C(C)(=O)C=1C=C(C=CC1OCCC)S(=O)(=O)Cl | C11H13ClO4S
